US05824691
A solution of 1-methylthio-2-bromobenzene (5 g) in dry ether (30 ml) was stirred at 0° C. and 1.63M n-butyllithium in hexane solution (16.6 ml) was added dropwise over a period of 15 minutes. The reaction mixture was stirred at 0° C. for 1.5 hours and then transferred to a cold (-78° C.) solution of triisopropyl borate (7.4 ml) in tetrahydrofuran (40 ml) over 40 minutes. After stirring for 1 hour at -78° C., the reaction mixture was allowed to warm to room temperature overnight. The suspension was poured into dilute 2M hydrochloric acid (40 ml) and the layers were separated. The aqueous phase was extracted with ether (2×80 ml) and the combined organic phases were washed with brine, dried with magnesium sulfate, evaporated and washed with petroleum ether (2×20 ml) to afford 2-methylthiophenyldihydroxyborane.

reactant | 1-methylthio-2-bromobenzene | 5 g | CSC1=C(C=CC=C1)Br | C7H7BrS
reactant | n-butyllithium | 1.63M | C(CCC)[Li]
reactant | triisopropyl borate | 7.4 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2M, 40 ml | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | hexane | 16.6 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-methylthiophenyldihydroxyborane | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
